US08426604B2
5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(2-hydroxy-3-pyrrolidin-1-yl-propyl)-methyl-amino]-thiazol-4-one was prepared from 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-propylsulfanyl-thiazolidin-4-one and 1-Methylamino-3-pyrrolidin-1-yl-propan-2-ol following General Procedure B.

reactant | 5-[1-(4-chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-propylsulfanyl-thiazolidin-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(NC(S2)SCCC)=O)C=C1)C(F)(F)F | C22H19ClF3N3OS2
reactant | 1-Methylamino-3-pyrrolidin-1-yl-propan-2-ol | CNCC(CN1CCCC1)O | C8H18N2O
product | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-[(2-hydroxy-3-pyrrolidin-1-yl-propyl)-methyl-amino]-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)N(C)CC(CN2CCCC2)O)=O)C=C1)C(F)(F)F | C27H27ClF3N5O2S
